US07405201B2
N-[(2E)-3-Cyclohexyl-2-propenoyl]-3,5-difluorophenylalanine
6.3 ml (49.7 mmol) of chlorotrimethylsilane are added to a solution of 5.0 g (24.9 mmol) of 3,5-difluoro-DL-phenylalanine in dichloromethane (150 ml) and the reaction mixture is heated to reflux for 1 h. After cooling to 0° C., 9.7 ml (55.9 mmol) of ethyldiisopropylamine are slowly added and then, dropwise, 4.29 g (24.9 mmol) of trans-3-cyclohexyl-2-propenoyl chloride. The reaction mixture is stirred overnight with slow warming to RT and remains standing at RT for two days. For working up, the mixture is evaporated to dryness in vacuo, the residue is taken up using diethyl ether and extracted with 2.5 pc. aq. sodium hydrogencarbonate solution (250 ml). The aqueous phase is extracted twice with diethyl ether. The combined organic phases are extracted a further three times with sodium hydrogencarbonate solution. The combined aqueous phases are brought to pH=2 using 1N aqueous hydrochloric acid and extracted three times with ethyl acetate. The combined ethyl acetate phases are dried over sodium sulfate, filtered, and the solvent is concentrated in vacuo. The residue (4.63 g) is washed by stirring with diethyl ether and filtered. 3.64 g (43% of th.) of colorless solid are obtained. The residue from the concentrated mother liquor and the residue from the concentrated diethyl ether phase of the alkaline extraction (see above), are taken up together in ethyl acetate and extracted with 1N hydrochloric acid. The organic phase is dried over sodium sulfate, filtered and concentrated. The residue is washed by stirring with diethyl ether and filtered off with suction. A further 2.18 g (26%) of product are isolated.

reactant | chlorotrimethylsilane | 49.7 mmol, 6.3 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3,5-difluoro-DL-phenylalanine | 24.9 mmol, 5.0 g | FC=1C=C(CC(N)C(=O)O)C=C(C1)F | C9H9F2NO2
reactant | ethyldiisopropylamine | 55.9 mmol, 9.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | trans-3-cyclohexyl-2-propenoyl chloride | 24.9 mmol, 4.29 g | C1(CCCCC1)/C=C/C(=O)Cl | C9H13ClO
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-[(2E)-3-Cyclohexyl-2-propenoyl]-3,5-difluorophenylalanine | 2.18 g, 26% | C1(CCCCC1)/C=C/C(=O)N[C@@H](CC1=CC(=CC(=C1)F)F)C(=O)O | C18H21F2NO3
